US08871782B2
A solution of sodium dithionate (85% pure, 135.07 g, 659.42 mmol) and potassium carbonate (101.27 g, 732.73 mmol) in water (450 mL) was added dropwise to a mechanically stirred mixture of ethyl viologen dibromide (1.1 g, 2.93 mmol) and (7-benzyloxy-3-nitro-quinolin-4-yl)[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]amine (60.0 g, 146.54 mmol) in dichloromethane (500 mL) and water (50 mL). The reaction mixture was stirred at ambient temperature overnight and then diluted with water (600 mL) and stirred for an additional 10 minutes. The organic phase was separated and the aqueous layer was reextracted with dichloromethane (400 mL). The combined organic layers were washed with water (800 mL) and brine (800 mL), dried over sodium sulfate, and concentrated under reduced pressure to afford 55.60 g of 7-benzyloxy-N4-[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]quinoline-3,4-diamine as a brown foam.

reactant | sodium dithionate | 659.42 mmol, 135.07 g | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | potassium carbonate | 732.73 mmol, 101.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | (7-benzyloxy-3-nitro-quinolin-4-yl)[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]amine | 146.54 mmol, 60.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC1OC(OC1)(C)C | C22H23N3O5
solvent | water | 450 mL | O | H2O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | water | 600 mL | O | H2O
catalyst | ethyl viologen dibromide | 2.93 mmol, 1.1 g | CC[N+]1=CC=C(C=C1)C2=CC=[N+](C=C2)CC.[Br-].[Br-]
product | 7-benzyloxy-N4-[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]quinoline-3,4-diamine | 55.60 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCC1OC(OC1)(C)C | C22H25N3O3
